US08202989B2
6-Chloro isatoic anhydride (0.1 mol) and 1,2-phenylenediamine (0.1 mol) were dissolved in acetic acid (90%) and the mixture heated at 100° C. for 2.5 hrs. The mixture was poured into water and extracted with ethyl acetate, neutralized, dried and 2-chloro-10,11-dihydro-5H-dibenzo[b,e][1,4]diazepin-11-one was isolated (94%) after removal of solvent under reduced pressure.

reactant | 6-Chloro isatoic anhydride | 0.1 mol | ClC=1C=CC=C2C1C(=O)OC(N2)=O | C8H4ClNO3
reactant | 1,2-phenylenediamine | 0.1 mol | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2-chloro-10,11-dihydro-5H-dibenzo[b,e][1,4]diazepin-11-one | ClC1=CC2=C(NC3=C(NC2=O)C=CC=C3)C=C1 | C13H9ClN2O
